US08242175B2
A mixture of (E)-3-(4-{(E)-3-[4-(4-benzoyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride (200 mg, 0.398 mmol), HOBT (107.4 mg, 0.796 mmol), EDC (152 mg, 0.796 mmol), TEA (0.111 ml, 0.796 mmol) and NH2OTHP (56 mg, 0.477 mmol) in THF (5 ml) and DMF (5 ml) was stirred overnight at room temperature and then partitioned between water and AcOEt. The organic phase was dried over Na2SO4 and evaporated in vacuo. The crude mixture was purified by silica gel chromatography (eluent: DCM/MeOH 98:2) and the resulting product was dissolved in DCM and treated with HCl/Et2O for 2 h. The precipitate was filtered giving 115 mg of (E)-3-(4-{(E)-3-[4-(4-benzoyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy acrylamide as its hydrochloride salt.

reactant | (E)-3-(4-{(E)-3-[4-(4-benzoyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-acrylic acid hydrochloride | 0.398 mmol, 200 mg | Cl.C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)O)=O
reactant | HOBT | 0.796 mmol, 107.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.796 mmol, 152 mg
reactant | NH2OTHP | 0.477 mmol, 56 mg | NOC1OCCCC1 | C5H11NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (E)-3-(4-{(E)-3-[4-(4-benzoyl-piperazin-1-yl)-phenyl]-3-oxo-propenyl}-phenyl)-N-hydroxy acrylamide | 115 mg, Yield=56% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NO)=O | C29H27N3O4
